US05849757
2,4,5-Trifluoro-3-methyl-6-nitrobenzoic acid was suspended in 490 ml of benzene to which was subsequently added dropwise 30.4 ml (0.42 mol) of thionyl chloride at room temperature. After completion of the dropwise addition, the reaction solution was heated under reflux for 22 hours. After evaporation of benzene, the resulting residue was subjected twice to azeotropic treatment with 200 ml of benzene to yield crude 2,4,5-trifluoro-3-methyl-6-nitrobenzoyl chloride. A 6.13 g (0.25 mol) portion of magnesium was mixed with 200 ml of ethanol. Thereto was added dropwise 10 ml of carbon tetrachloride at room temperature, followed by 6 hours of stirring at the same temperature. When magnesium was dissolved, 44 ml (0.29 mol) of diethyl malonate dissolved in 150 ml of tetrahydrofuran was added dropwise thereto, spending 1 hour. After completion of the dropwise addition, the mixture was stirred for 2 hours at room temperature. After completion of the reaction, the solvent was evaporated and the resulting residue was dried under a reduced pressure. The thus obtained solid matter was mixed with 300 ml of tetrahydrofuran to which was subsequently added dropwise 150 ml of tetrahydrofuran solution of the acid chloride obtained above in 1.5 hours. After completion of the dropwise addition, the reaction solution was stirred for 2 hours at room temperature. After completion of the reaction, the reaction solution was mixed with 400 ml of ethyl acetate and washed with 10% citric acid (500 ml×1), water (500 ml×1) and saturated brine (500 ml×1) in that order. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated. The resulting residue was mixed with 1.5 liters of water and 1.5 g of p-toluenesulfonic acid, and heated under reflux for 1.5 hours. After completion of the reaction, the reaction solution was spontaneously cooled and extracted with benzene (500 ml×5). The organic layers were combined, washed with 500 ml of saturated brine and dried over anhydrous sodium sulfate. After evaporation of the solvent, the resulting residue was subjected to a silica gel column chromatography to yield 37.65 g (44%) of the title compound from the eluate of hexane:ethyl acetate=95:5.

reactant | 2,4,5-Trifluoro-3-methyl-6-nitrobenzoic acid | FC1=C(C(=O)O)C(=C(C(=C1C)F)F)[N+](=O)[O-] | C8H4F3NO4
reactant | thionyl chloride | 0.42 mol, 30.4 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 490 ml | C1=CC=CC=C1 | C6H6
product | 2,4,5-trifluoro-3-methyl-6-nitrobenzoyl chloride | FC1=C(C(=O)Cl)C(=C(C(=C1C)F)F)[N+](=O)[O-] | C8H3ClF3NO3
